US06118016
To a slurry of 47.43 g (0.131 mol) of 4-(4-fluorophenoxy)benzenesulfonic acid 4-fluorophenyl ester in 475 mL of ethanol was added 13.09 g (0.327 mol, 2.5 equivalents) of sodium hydroxide pellets. This mixture was heated at reflux for three hours and stirred overnight at room temperature. The resulting solids were filtered yielding 37.16 g (98%) of 4-(4-fluorophenoxy)benzenesulfonic acid, sodium salt.

reactant | 4-(4-fluorophenoxy)benzenesulfonic acid 4-fluorophenyl ester | 0.131 mol, 47.43 g | FC1=CC=C(C=C1)OS(=O)(=O)C1=CC=C(C=C1)OC1=CC=C(C=C1)F | C18H12F2O4S
reactant | sodium hydroxide | 0.327 mol, 13.09 g, 2.5 equivalents | [OH-].[Na+]
solvent | ethanol | 475 mL | C(C)O | C2H6O
product | 4-(4-fluorophenoxy)benzenesulfonic acid | 37.16 g, 98% | FC1=CC=C(OC2=CC=C(C=C2)S(=O)(=O)O)C=C1 | C12H9FO4S
